US08071588B2
Methyl 1-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]cyclopropanecarboxylate
To 1-[(methyloxy)carbonyl]cyclopropanecarboxylic acid (7.00 g, 48.5 mmol) in a 250 mL round-bottom flask under nitrogen in dichloromethane (DCM) (75 mL) was added thionyl chloride (19.33 mL, 265 mmol) and the solution heated to reflux. After 1.5 h the solvent and excess thionyl chloride was evaporated off. The clear residue was dissolved in DCM (120 mL), cooled under nitrogen to 0° C. and then diisopropylethylamine (23.13 mL, 132 mmol) was added dropwise. This gave white fumes and a red-brown solution that was stirred in an ice bath while adding 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine hydrochloride salt (15 g, 44.1 mmol) as a solid. After 15 min the icebath was removed. After 2.5 h the reaction was quenched, the mixture was partitioned between dichloromethane and saturated sodium bicarbonate and the aqueous layer extracted well with dichloromethane. The combined organics were washed with water and brine, dried (MgSO4), filtered and evaporated. This gave a dark brown oil/foam, 23.6 g, (>100%). The crude product was purified on a 330 g Companion XL silica cartridge, eluting with 0-100% ethyl acetate in dichloromethane over 10 column volumes. Much of the dark material came straight off the column and product appeared to come off in two broad peaks that were evaporated separately. The early fractions contained the desired product 12.25 g, (65%). HPLC 1.86 min (ret time), 98.4%; LC-MS m/z 430 (M+H)+, 0.79 min (ret time).

reactant | 1-[(methyloxy)carbonyl]cyclopropanecarboxylic acid | 48.5 mmol, 7.00 g | COC(=O)C1(CC1)C(=O)O | C6H8O4
reactant | thionyl chloride | 265 mmol, 19.33 mL | S(=O)(Cl)Cl | Cl2OS
reactant | diisopropylethylamine | 132 mmol, 23.13 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine hydrochloride salt | 44.1 mmol, 15 g | Cl.NCC1=C(C2=C(N=C1CC)N(N=C2)CC)NC2CCOCC2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | Methyl 1-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]cyclopropanecarboxylate | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2(CC2)C(=O)OC)CC | C22H31N5O4
